// MOSFET Transient Analysis - Spectre version
// Replicates ngspice transient_circuit.cir
simulator lang=spectre

simulatorOptions options gmin=1e-15 reltol=1e-8 vabstol=1e-12 temp=27 tnom=27

simulator lang=spice
.inc ../../models/FreePDK45/nom.inc
simulator lang=spectre

// ============================================================
// Large-Signal Transient DUT
// ============================================================
M_tran (drain_tran gate_tran source_tran bulk_tran) NMOS_VTG l=0.045u w=10u

Vgs_tran (gate_tran 0) vsource dc=0 type=pulse \
    val0=0 val1=1.2 delay=0 rise=0.1n fall=0.1n width=10n period=20n
Vds_tran (drain_tran 0) vsource dc=1.2
Vs_tran (source_tran 0) vsource dc=0
Vb_tran (bulk_tran 0) vsource dc=0

// ============================================================
// Inverter Switching Circuit
// ============================================================
M_inv_n (out_inv in_inv 0 0) NMOS_VTG l=0.045u w=10u
M_inv_p (out_inv in_inv vdd_inv vdd_inv) PMOS_VTG l=0.045u w=20u

Vdd_inv (vdd_inv 0) vsource dc=1.2
Vin_inv (in_inv 0) vsource dc=0 type=pulse \
    val0=0 val1=1.2 delay=0 rise=0.1n fall=0.1n width=10n period=20n

// ============================================================
// Delay Chain (3 inverters)
// ============================================================
Vdd_delay (vdd_delay 0) vsource dc=1.2
Vin_delay (in_delay 0) vsource dc=0 type=pulse \
    val0=0 val1=1.2 delay=0 rise=0.1n fall=0.1n width=10n period=20n

// Stage 1
M_d1_n (mid1_delay in_delay 0 0) NMOS_VTG l=0.045u w=10u
M_d1_p (mid1_delay in_delay vdd_delay vdd_delay) PMOS_VTG l=0.045u w=20u
// Stage 2
M_d2_n (mid2_delay mid1_delay 0 0) NMOS_VTG l=0.045u w=10u
M_d2_p (mid2_delay mid1_delay vdd_delay vdd_delay) PMOS_VTG l=0.045u w=20u
// Stage 3
M_d3_n (out_delay mid2_delay 0 0) NMOS_VTG l=0.045u w=10u
M_d3_p (out_delay mid2_delay vdd_delay vdd_delay) PMOS_VTG l=0.045u w=20u

// ============================================================
// Power Dissipation Circuit
// ============================================================
M_power_n (out_power in_power 0 0) NMOS_VTG l=0.045u w=10u
M_power_p (out_power in_power vdd_power vdd_power) PMOS_VTG l=0.045u w=20u

Vdd_power (vdd_power 0) vsource dc=1.2
Vin_power (in_power 0) vsource dc=0 type=pulse \
    val0=0 val1=1.2 delay=0 rise=0.1n fall=0.1n width=10n period=20n

// ============================================================
// Quasi-Static Analysis DUT
// ============================================================
M_qs (drain_qs gate_qs source_qs bulk_qs) NMOS_VTG l=0.045u w=10u

Vgs_qs (gate_qs 0) vsource dc=0 type=pulse \
    val0=0 val1=1.2 delay=0 rise=20n fall=20n width=100n period=200n
Vds_qs (drain_qs 0) vsource dc=1.2
Vs_qs (source_qs 0) vsource dc=0
Vb_qs (bulk_qs 0) vsource dc=0

// ============================================================
// Charge Conservation DUT
// ============================================================
M_charge (drain_charge gate_charge source_charge bulk_charge) NMOS_VTG l=0.045u w=10u

Vg_charge (gate_charge 0) vsource dc=0 type=pulse \
    val0=0 val1=1.2 delay=0 rise=1n fall=1n width=10n period=20n
Vd_charge (drain_charge 0) vsource dc=1.2
Vs_charge (source_charge 0) vsource dc=0
Vb_charge (bulk_charge 0) vsource dc=0

// ============================================================
// Transient Analyses
// ============================================================

// Large-Signal Transient
tran_ls tran start=0 stop=100n step=0.01n

// Inverter Switching
tran_sw tran start=0 stop=100n step=0.01n

// Delay Chain
tran_delay tran start=0 stop=100n step=0.01n

// Power Dissipation at 27C
sw_pwr_27 sweep param=temp values=[27] {
    tran_pwr_27 tran start=0 stop=100n step=0.01n
}

// Power Dissipation at 100C
sw_pwr_100 sweep param=temp values=[100] {
    tran_pwr_100 tran start=0 stop=100n step=0.01n
}

// Quasi-Static
tran_qs tran start=0 stop=500n step=0.1n

// Charge Conservation
tran_charge tran start=0 stop=100n step=0.01n

// Save signals
save M_tran:d M_tran:g M_tran:s M_tran:b
save M_inv_n:d M_inv_n:g M_inv_n:s M_inv_n:b
save M_inv_p:d M_inv_p:g M_inv_p:s M_inv_p:b
save M_power_n:d M_power_n:g M_power_n:s M_power_n:b
save M_power_p:d M_power_p:g M_power_p:s M_power_p:b
save M_qs:d M_qs:g M_qs:s M_qs:b
save M_charge:d M_charge:g M_charge:s M_charge:b
